US07786132B2
(ii) 7-Phenyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine
1-Phenyl-2-(thiophen-3-ylmethylamino)ethanol (4.5 g, 19.2 mmol) was added to a flask containing polyphosphoric acid (20 g) and the mixture was heated to 80° C. After 1 h, the reaction was cooled down to room temperature and treated with crushed ice. The mixture was then rendered basic using ammonium hydroxide. The aqueous mixture was extracted twice with dichloromethane. The organic layers were combined and washed with water and brine. The organic portion was dried with sodium sulfate, reduced in vacuo and placed on a vacuum line to give an oil. Yield=3.5 g. MS (M+H)+ 216.

reactant | 1-Phenyl-2-(thiophen-3-ylmethylamino)ethanol | 19.2 mmol, 4.5 g | C1(=CC=CC=C1)C(CNCC1=CSC=C1)O | C13H15NOS
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 7-Phenyl-4,5,6,7-tetrahydrothieno[3,2-c]pyridine | C1(=CC=CC=C1)C1C2=C(CNC1)C=CS2 | C13H13NS
